US08022223B2
A 25 mL round-bottomed flask was charged with tert-butyl 4-(2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (500 mg, 0.876 nmol), 7-chlorothieno[3,2-b]pyridine (178 mg, 1.05 mmol), and DMSO (8 mL). Nitrogen was bubbled through the solution for 10 minutes. Potassium 2-methylpropan-2-olate (295 mg, 2.63 mmol) was added and stirred at room temperature for 30 minutes. The reaction was poured into saturated aqueous NH4Cl and extracted with EtOAc (2×20 mL). The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica (50% EtOAc in hexanes) to afford tert-butyl 4-(2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate.

reactant | tert-butyl 4-(2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 0.876 nmol, 500 mg | COC(CCSC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)=O | C28H34N4O5S2
reactant | 7-chlorothieno[3,2-b]pyridine | 1.05 mmol, 178 mg | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | Potassium 2-methylpropan-2-olate | 2.63 mmol, 295 mg | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-(2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCN(CC2)C(=O)OC(C)(C)C | C31H31N5O3S3
